US05596124
Preparation of 5-[(2-Chloro-α,α,α-trifluoro -p-tolyl)oxy]salicylic acid
A mixture of 3-chloro-4-fluoro-α,α,α-trifluorotoluene (103 g, 0.52 mol), 2,5-dihydroxybenzoic acid (80 g, 0.52 mol) and potassium carbonate (180 g, 1.3 mol) in dimethyl sulfoxide is heated to and held at 130° C. for about 30 hours, cooled to room temperature and poured into ice-water. The aqueous mixture is acidified to pH 2 with concentrated hydrochloric acid and decanted to obtain an oil. The oil is dissolved in methylene chloride, washed with water and concentrated in vacuo to form a brown oil which is crystallized from ether to give the title product as a tan solid (158 g, 91.3%, mp 135° C.).

reactant | 3-chloro-4-fluoro-α,α,α-trifluorotoluene | 0.52 mol, 103 g | ClC=1C=C(C=CC1F)C(F)(F)F | C7H3ClF4
reactant | 2,5-dihydroxybenzoic acid | 0.52 mol, 80 g | OC1=C(C(=O)O)C=C(C=C1)O | C7H6O4
reactant | potassium carbonate | 1.3 mol, 180 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-[(2-Chloro-α,α,α-trifluoro -p-tolyl)oxy]salicylic acid | 158 g, 91.3% | ClC1=C(C=CC(=C1)OC1=CC=C(C(C(=O)O)=C1)O)C(F)(F)F | C14H8ClF3O4
